US06897231B2
SYNTHESIS OF N-[3-(5-(1H-1,2,4-TRIAZOL-3-YL)-1H-INDAZOL-3-YL)PHENYL]ACETAMIDE
To a solution 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazole-3-yl}phenylamine (0.200 g, 0.63 mmol), in acetic acid (6.0 mL) was added acetic anhydride (0.178 mL, 1.89 mmol). The reaction mixture was heated to reflux temperature for 12 hours. Water was added (10 mL) and the mixture was neutralized with 2.0 N aqueous sodium hydroxide. The product was extracted with ethyl acetate and concentrated to dryness. The crude oil was dissolved in 4 mL of ethanol and treated with 4 mL of commercial solution of hydrogen peroxide and 0.200 mL of 2.0 N aqueous sodium hydroxide. After 3 hours, the solvent was removed under reduced pressure. The resulting oil was dissolved in 5 mL of dimethoxy dimethyl formamide acetal and the solution was heated to reflux temperature for 3 hours. The solvent was removed under reduced pressure and the residue was dissolved in 10 mL of acetic acid and treated with 1 mL of anhydrous hydrazine. The reaction mixture was heated to reflux temperature for 12 hours. After neutralization with aqueous sodium hydroxide (2.0 N), the crude was extracted with ethyl acetate and purified by preparative HPLC (15-80% acetonitrile in water) (0.040 g, 20% over 5 steps): 1H NMR (DMSO-d6) δ 13.4 (br s, 1H), 10.1 (s, 1H), 8.7 (s, 1H), 8.4 (br s, 1H), 8.2 (s, 1H), 8.1 (d, 1H), 7.7 (t, 3H), 7.5 (t, 1H), 2.1 (s, 3H); ES-MS (m/z) 319 [M+1]+.

reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazole-3-yl}phenylamine | 0.63 mmol, 0.200 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)N | C39H34N6O
reactant | acetic anhydride | 1.89 mmol, 0.178 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | O | H2O
reactant | sodium hydroxide | 2.0 N | [OH-].[Na+]
solvent | acetic acid | 6.0 mL | C(C)(=O)O | C2H4O2
product | N-[3-(5-(1H-1,2,4-TRIAZOL-3-YL)-1H-INDAZOL-3-YL)PHENYL]ACETAMIDE | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(C)=O | C17H14N6O
